US04757068
1-Carboxymethyl-3-(1-carboxy-3-phenylpropyl)amino-3-methyl-1,2-dihydro-2-oxo-3H-indole
This above lactam was alkylated with t-butyliodoacetate as described in Example 1, Step B, to afford, after chromatography (silica, 2 ether: 1 hexane), 1-t-butyoxycarbonylmethyl 3-(1-ethoxy-carbonyl-3-phenylpropyl)amino-3-methyl-1,2-dihydro-2-oxo-3H-indole. NMR (CDCl3): δ1.1 (t, 3H); 1.5 (s, 9H); 1.55 (s, 3H); 1.8-3.2 (m, 6H); 3.9 (s, 2H); 4.4 (s, 2H); 7.1 (br.s., 9).

reactant | t-butyliodoacetate | C(C)(C)(C)OC(CI)=O | C6H11IO2
reactant | ether | CCOCC | C4H10O
reactant | 1-t-butyoxycarbonylmethyl 3-(1-ethoxy-carbonyl-3-phenylpropyl)amino-3-methyl-1,2-dihydro-2-oxo-3H-indole | C(C)(C)(C)OC(=O)CN1C(C(C2=CC=CC=C12)(C)NC(CC(C1=CC=CC=C1)=C=O)OCC)=O | C27H32N2O5
solvent | hexane | CCCCCC | C6H14
product | 1-Carboxymethyl-3-(1-carboxy-3-phenylpropyl)amino-3-methyl-1,2-dihydro-2-oxo-3H-indole | C(=O)(O)CN1C(C(C2=CC=CC=C12)(C)NC(CCC1=CC=CC=C1)C(=O)O)=O | C21H22N2O5
